US05194442
2,3-Dihydro-7-phenylthio-1-benzoxepin
20 g (89.3 mmol) of 7-bromo-2,3-dihydro-1-benzoxepin are dissolved in 180 ml of dry tetrahydrofuran and, at -78° C. under argon, 105 ml (178.6 mmol) of tert.-butyllithium are added dropwise within 1 hour. The mixture is stirred at -78° C. for 4.5 hours and then, at this temperature, 19.6 g (89 mmol) of diphenyl disulfide dissolved in 90 ml of dry tetrahydrofuran are added dropwise. The temperature is allowed to rise to 0° C. over about 15 hours, and the mixture is hydrolyzed with cold water and extracted several times with diethyl ether. The combined organic extracts are washed with cold 5% strength potassium hydroxide solution, water and saturated sodium chloride solution. The solution is dried over sodium sulfate and filtered, and the solvent is evaporated off in vacuo. The remaining brown oil is filtered through a short silica gel column, (200 g) with cyclohexane. The residue after evaporation of all the fractions is 13.6 g 53.3 mmol (60% of theory) of pale oil.

reactant | 7-bromo-2,3-dihydro-1-benzoxepin | 89.3 mmol, 20 g | BrC=1C=CC2=C(C=CCCO2)C1 | C10H9BrO
reactant | tert.-butyllithium | 178.6 mmol, 105 ml | C(C)(C)(C)[Li]
reactant | diphenyl disulfide | 89 mmol, 19.6 g | C1(=CC=CC=C1)SSC1=CC=CC=C1 | C12H10S2
reactant | water | O | H2O
solvent | tetrahydrofuran | 180 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 90 ml | O1CCCC1 | C4H8O
product | 2,3-Dihydro-7-phenylthio-1-benzoxepin | C1(=CC=CC=C1)SC=1C=CC2=C(C=CCCO2)C1 | C16H14OS
